US04359332
To a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (6.6 g, 0.02 mole) in 200 ml. of ether was added dropwise with good stirring isopropylamine (4.9 g, 0.08 mole) in 70 ml. of ether. The reaction temperature was controlled by cold water bath. The reaction was stirred at room temperature overnight, then was filtered and the filtrate concentrated in vacuo. The residue was taken up in ether, washed with water, dried, concentrated in vacuo, extracted into hot petroleum ether and concentrated to give ethyl N-trifluoroacetyl-N-(bis(isopropylamino)phosphonomethyl)glycinate as a light yellow oil-gum, ND =1.4495.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.02 mole, 6.6 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | isopropylamine | 0.08 mole, 4.9 g | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(bis(isopropylamino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCC)CP(=O)(ONC(C)C)ONC(C)C)(F)F | C13H25F3N3O6P
